US08034949B2
To a solution of (3R)-1-[bis-(4-chlorophenyl)methyl]-3-[(5-bromonicotinoyl)-amino]pyrrolidine (50 mg) in toluene was added copper iodide (7 mg), cesium carbonate (15 mg), sodium iodide (15 mg), phenanthroline (14 mg) and ethanol (0.1 mL) and the mixture was stirred at 100° C. for 15 hours. The reaction mixture was evaporated in vacuo and to the residue was added an aqueous saturated sodium hydrogencarbonate solution was added. The mixture was extracted with ethyl acetate and the organic layer was evaporated in vacuo. The residue was purified by a column chromatography on silica gel (solvent; ethyl acetate/hexane=1:1) to give (3R)-1-[bis-(4-chlorophenyl)methyl]-3-[(5-ethoxynicotinoyl)amino]pyrrolidine (12 mg, yield: 26%) as a powder.

reactant | (3R)-1-[bis-(4-chlorophenyl)methyl]-3-[(5-bromonicotinoyl)-amino]pyrrolidine | 50 mg | ClC1=CC=C(C=C1)C(N1C[C@@H](CC1)NC(C1=CN=CC(=C1)Br)=O)C1=CC=C(C=C1)Cl | C23H20BrCl2N3O
reactant | cesium carbonate | 15 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 15 mg | [I-].[Na+]
reactant | phenanthroline | 14 mg | N1=CC=CC2=CC=C3C=CC=NC3=C12 | C12H8N2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | copper iodide | 7 mg | [Cu](I)I
solvent | ethanol | 0.1 mL | C(C)O | C2H6O
product | (3R)-1-[bis-(4-chlorophenyl)methyl]-3-[(5-ethoxynicotinoyl)amino]pyrrolidine | 12 mg, yield: 26% | ClC1=CC=C(C=C1)C(N1C[C@@H](CC1)NC(C1=CN=CC(=C1)OCC)=O)C1=CC=C(C=C1)Cl | C25H25Cl2N3O2
